US05846995
N-(N,N-Diethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)isonicotinamide dihydrochloride
Beginning with 0.100 gm (0.30 mMol) 8-amino-1,2,3,4-tetrahydro-2-diethylaminodibenzofuran and 0.059 gm (0.33 mMol) isonicotinoyl chloride hydrochloride, 0.068 gm (52%) of the title compound were recovered as a yellow solid by the procedure described in Example 17.

reactant | 8-amino-1,2,3,4-tetrahydro-2-diethylaminodibenzofuran | 0.30 mMol, 0.100 gm | NC=1C=CC2=C(C3=C(O2)CCC(C3)N(CC)CC)C1 | C16H22N2O
reactant | isonicotinoyl chloride hydrochloride | 0.33 mMol, 0.059 gm | Cl.C(C1=CC=NC=C1)(=O)Cl
product | N-(N,N-Diethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)isonicotinamide dihydrochloride | 0.068 gm, 52% | Cl.Cl.C(C)N(C1CC2=C(OC3=C2C=C(C=C3)NC(C3=CC=NC=C3)=O)CC1)CC | InChI=1S/C22H25N3O2.2ClH/c1-3-25(4-2)17-6-8-21-19(14-17)18-13-16(5-7-20(18)27-21)24-22(26)15-9-11-23-12-10-15;;/h5,7,9-13,17H,3-4,6,8,14H2,1-2H3,(H,24,26);2*1H
